US06562811B1
To an ice water cooled solution of tert-butyl 3-(hydroxymethyl)-3-methyl-1-piperidinecarboxylate (1.5 g, 6.6 mmol) in CH2Cl2 were added DMSO (7.1 g, 91.6 mmol), Et3N (5.5 mL, 39.8 mmol), and sulfur trioxide-Pyridine complex (3.1 g, 19.9 mmol) successively. The mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with ether, purified by column chromatography on silica gel (hexane:ethyl acetate, 5:1-4:1) to give tert-butyl 3-formyl-3-methyl-1-piperidinecarboxylate as a colorless oil form (1.3 g, yield; 86%).

reactant | tert-butyl 3-(hydroxymethyl)-3-methyl-1-piperidinecarboxylate | 6.6 mmol, 1.5 g | OCC1(CN(CCC1)C(=O)OC(C)(C)C)C | C12H23NO3
reactant | DMSO | 91.6 mmol, 7.1 g | CS(=O)C | C2H6OS
reactant | Et3N | 39.8 mmol, 5.5 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | tert-butyl 3-formyl-3-methyl-1-piperidinecarboxylate | yield; 86% | C(=O)C1(CN(CCC1)C(=O)OC(C)(C)C)C | C12H21NO3
